US07026266B2
Thoroughly dried 250 ml flask was equipped with thermometer, magnetic stirrer bar, condenser, addition funnel and two way valve was charged with 5 g of catalyst, 50 ml tetrahydrofuran freshly distilled over sodium benzophenone ketyl of blue color. Assembly was filled with nitrogen as described earlier. To this was added 5.09 g (0.025 mol of iodobenzene) 60 ml Grignard reagent as prepared previously was charged in addition vessel. Grignard reagent was slowly added to contents of the flask which was previously cooled to 5° C. Temperature of the flask was maintained at 5° C. for 24 h. Reaction mixture was cooled to room temperature to which was slowly added 20 ml water followed by saturated 20 ml ammonium chloride. Resulting suspension was fluttered to remove solids and subsequently washed thoroughly with tetrahydrofuran and water. Filtrates were extracted with dichloromethane to obtain biphenyl in 89% yield residue left after filtration was washed with water, tetrahydrofuran and ether and dried under vacuum.

reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | water | 20 ml | O | H2O
product | biphenyl | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
